US05530019
The procedure of Ex. 1 was repeated except that 3-(3-heptyl-2-decenoyl)indole obtained in Pre. Ex. 26 was used in place of 3-heptanoylindole, and 4-methoxybenzyl 4-bromobutyrate was used in place of 4-bromobutyrate to give 4-methoxybenzyl 4-[3-(3-heptyl-2-decenoyl)-1-indolyl]butyrate as an oil.

reactant | 3-(3-heptyl-2-decenoyl)indole | C(CCCCCC)C(=CC(=O)C1=CNC2=CC=CC=C12)CCCCCCC | C25H37NO
reactant | 3-heptanoylindole | C(CCCCCC)(=O)C1=CNC2=CC=CC=C12 | C15H19NO
reactant | 4-methoxybenzyl 4-bromobutyrate | BrCCCC(=O)OCC1=CC=C(C=C1)OC | C12H15BrO3
product | 4-methoxybenzyl 4-[3-(3-heptyl-2-decenoyl)-1-indolyl]butyrate | C(CCCCCC)C(=CC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC1=CC=C(C=C1)OC)CCCCCCC | C37H51NO4
